US05591752
3-Cyano-o-toluic acid
Under ice cooling and stirring, 1.5 g of sodium nitrite dissolved in 2 ml of water was added dropwise over 1.5 hours to 3 g of 3-amino-o-toluic acid dissolved in a mixed solution of 8 ml of acetic acid, 8.3 g of sulfuric acid and 6.5 ml of water. After 3.2 ml of acetic acid, 0.4 g of sulfuric acid and 5.6 ml of water were added to the reaction mixture, the mixture was filtered and the reaction filtrate was adjusted. On the other hand, 6.5 g of potassium cyanide dissolved in 12.7 ml of water was added dropwise to 5.9 g of copper sulfate.pentahydrate dissolved in 12.7 ml of water at room temperature under stirring and 21.5 g of sodium hydrogen carbonate and 70 ml of toluene were added to the mixture. Under ice cooling and stirring, the above reaction filtrate was added dropwise to this 10 reaction mixture over 1 hour and then the mixture was stirred at 80° C. for 30 minutes. After completion of the reaction, the reaction mixture was adjusted to about pH 3 with 1N-hydrochloric acid, crystals precipitated were extracted with ethyl acetate and the organic layer was washed with a saturated saline solution and then dried over anhydrous sodium carbonate. The solvent was removed to obtain 3.8 g of the title compound. Mass (CI); m/z=162 (M+ +1)

reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
reactant | 3-amino-o-toluic acid | NC1=C(C(=CC=C1)C)C(=O)O | C8H9NO2
reactant | sulfuric acid | 8.3 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.4 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
solvent | water | 5.6 ml | O | H2O
solvent | water | 6.5 ml | O | H2O
product | 3-Cyano-o-toluic acid | 3.8 g | C(#N)C1=C(C(=CC=C1)C)C(=O)O | C9H7NO2
